.subckt NMOS D G S B DUM l=1.0 w=6.0
XMAIN1 D G S B nfet_03v3 l=1.0 w=6.0
XMAIN2 D G S B nfet_03v3 l=1.0 w=6.0
XMAIN3 D G S B nfet_03v3 l=1.0 w=6.0
XMAIN4 D G S B nfet_03v3 l=1.0 w=6.0
XDUMMY1 DUM DUM DUM B nfet_03v3 l=1.0 w=6.0
.ends NMOS

.subckt DIFF_PAIR VP VN VDD1 VDD2 VTAIL B
X0 VDD1 VP VTAIL B B NMOS l=1.0 w=6.0
X1 VDD1 VP VTAIL B B NMOS l=1.0 w=6.0
X2 VDD2 VN VTAIL B B NMOS l=1.0 w=6.0
X3 VDD2 VN VTAIL B B NMOS l=1.0 w=6.0
.ends DIFF_PAIR

.subckt two_trans_interdigitized VDD1 VDD2 VSS1 VSS2 VG1 VG2 VB l=2.0 w=6.0 m=1 
XA VDD1 VG1 VSS1 VB nfet_03v3 l=2.0 w=6.0 m=4
XB VDD2 VG2 VSS2 VB nfet_03v3 l=2.0 w=6.0 m=4
XDUMMY cmdum cmdum cmdum VB nfet_03v3 l=2.0 w=6.0 m=2
.ends two_trans_interdigitized

.subckt CMIRROR VREF VOUT VSS B
X0 VREF VOUT VSS VSS VREF VREF B two_trans_interdigitized l=2.0 w=6.0 m={1}
.ends CMIRROR

.subckt NMOS_1 D G S B DUM l=0.5 w=1
XMAIN1 D G S B nfet_03v3 l=0.5 w=1
XMAIN2 D G S B nfet_03v3 l=0.5 w=1
XMAIN3 D G S B nfet_03v3 l=0.5 w=1
XMAIN4 D G S B nfet_03v3 l=0.5 w=1
XMAIN5 D G S B nfet_03v3 l=0.5 w=1
.ends NMOS_1

.subckt INPUT_STAGE VP VN VDD1 VDD2 IBIAS VSS B
X0 VP VN VDD1 VDD2 wire0 B DIFF_PAIR
X1 IBIAS wire0 VSS B CMIRROR
X2 VSS VSS VP VSS DUM NMOS_1 l=0.5 w=1
X3 VSS VSS VN VSS DUM NMOS_1 l=0.5 w=1
.ends INPUT_STAGE

.subckt DIFF_TO_SINGLE VIN VOUT VSS VSS2 l=1.0 w=6.0 mt=8 mb=12 
XTOP1 V1   VIN VSS  VSS pfet_03v3 l={l} w={w} m={mt}
XTOP2 VSS2 VIN VSS  VSS pfet_03v3 l={l} w={w} m={mt}
XBOT1 VIN  VIN V1   VSS pfet_03v3 l={l} w={w} m={mb}
XBOT2 VOUT VIN VSS2 VSS pfet_03v3 l={l} w={w} m={mb}
XDUMMY1  VSS VSS VSS VSS pfet_03v3 l={l} w={w}
XDUMMY2  VSS VSS VSS VSS pfet_03v3 l={l} w={w}
XDUMMY3  VSS VSS VSS VSS pfet_03v3 l={l} w={w}
XDUMMY4  VSS VSS VSS VSS pfet_03v3 l={l} w={w}
XDUMMY5  VSS VSS VSS VSS pfet_03v3 l={l} w={w}
XDUMMY6  VSS VSS VSS VSS pfet_03v3 l={l} w={w}
XDUMMY7  VSS VSS VSS VSS pfet_03v3 l={l} w={w}
XDUMMY8  VSS VSS VSS VSS pfet_03v3 l={l} w={w}
XDUMMY9  VSS VSS VSS VSS pfet_03v3 l={l} w={w}
XDUMMY10 VSS VSS VSS VSS pfet_03v3 l={l} w={w}
.ends DIFF_TO_SINGLE

.subckt PMOS D G S B DUM l=1.0 w=7.0
XMAIN1 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN2 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN3 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN4 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN5 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN6 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN7 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN8 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN9 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN10 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN11 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN12 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN13 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN14 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN15 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN16 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN17 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN18 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN19 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN20 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN21 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN22 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN23 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN24 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN25 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN26 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN27 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN28 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN29 D G S B pfet_03v3 l=1.0 w=7.0
XMAIN30 D G S B pfet_03v3 l=1.0 w=7.0
XDUMMY1 DUM DUM DUM B pfet_03v3 l=1.0 w=7.0
XDUMMY2 DUM DUM DUM B pfet_03v3 l=1.0 w=7.0
XDUMMY3 DUM DUM DUM B pfet_03v3 l=1.0 w=7.0
XDUMMY4 DUM DUM DUM B pfet_03v3 l=1.0 w=7.0
XDUMMY5 DUM DUM DUM B pfet_03v3 l=1.0 w=7.0
XDUMMY6 DUM DUM DUM B pfet_03v3 l=1.0 w=7.0
.ends PMOS

.subckt DIFF_TO_SINGLE_CS VIN1 VIN2 VOUT VSS VSS2
X0 VIN1 VIN2 VSS VSS2 DIFF_TO_SINGLE l=1.0 w=6.0 mt=8 mb=12
X1 VOUT VIN2 VSS VSS VSS PMOS l=1.0 w=7.0
X2 VOUT VIN2 VSS VSS VSS PMOS l=1.0 w=7.0
.ends DIFF_TO_SINGLE_CS

.subckt CMIRROR_1 VREF VOUT VSS B l=2.0 w=6.0 mr=8 mo=16 dr=2 do=4
XREFL VREF VREF VSS B nfet_03v3 l={l} w={w} m={mr}
XREFR VREF VREF VSS B nfet_03v3 l={l} w={w} m={mr}
XOUTL VOUT VREF VSS B nfet_03v3 l={l} w={w} m={mo}
XOUTR VOUT VREF VSS B nfet_03v3 l={l} w={w} m={mo}
XDREFL B B B B nfet_03v3 l={l} w={w} m={dr}
XDREFR B B B B nfet_03v3 l={l} w={w} m={dr}
XDOUTL B B B B nfet_03v3 l={l} w={w} m={do}
XDOUTR B B B B nfet_03v3 l={l} w={w} m={do}
.ends CMIRROR_1

.subckt MIMCap V1 V2 l=1 w=1
X1 V1 V2 mimcap_1p0fF l={l} w={w}
.ends MIMCap

.subckt MIMCAP_ARR V1 V2
X0 V1 V2 MIMCap l=12.0 w=12.0
X1 V1 V2 MIMCap l=12.0 w=12.0
X2 V1 V2 MIMCap l=12.0 w=12.0
X3 V1 V2 MIMCap l=12.0 w=12.0
X4 V1 V2 MIMCap l=12.0 w=12.0
X5 V1 V2 MIMCap l=12.0 w=12.0
.ends MIMCAP_ARR

.subckt GAIN_STAGE VIN1 VIN2 VOUT VDD IBIAS GND
X0 VIN1 VIN2 VOUT VDD wire0 DIFF_TO_SINGLE_CS
X1 IBIAS VOUT GND GND CMIRROR_1 l=2.0 w=6.0 mr=8 mo=16 dr=2 do=4
X2 wire0 VOUT MIMCAP_ARR
.ends GAIN_STAGE

.subckt OPAMP_TWO_STAGE VDD GND DIFFPAIR_BIAS VP VN CS_BIAS VOUT
X0 VP VN wire0 wire1 DIFFPAIR_BIAS GND GND INPUT_STAGE
X1 wire0 wire1 VOUT VDD CS_BIAS GND GAIN_STAGE
.ends OPAMP_TWO_STAGE